US08048887B2
4-Fluoro-2-(4-fluorophenyl)-5-hydroxybenzofuran-3-carboxylic acid
To a mixture of ethyl 4-fluoro-2-(4-fluorophenyl)-5-hydroxybenzofuran-3-carboxylate (108.9 mg, 0.342 mmol) in a mixture of MeOH (2 mL)/THF (2 mL) at r.t. under N2 was added sodium hydroxide (1.0 mL, 1.0 mmol) (1 M aq.). The mixture was stirred at 100° C. for 1.5 hours. The mixture was cooled to r.t., added with 1.5 ml 1N HCl, and then added 10 ml H2O. The white precipitates were filtered and washed with 3×2 ml H2O and dried (73 mg). 1H NMR (500 MHz, CD3OD) δ 7.98 (m, 2H), 7.25 (t overlapping with dd, 2H), 7.24 (dd, 1H), 7.02 (t, J=8.39, 1H). LC/MS were performed by using Shimadzu-VP instrument with UV detection at 220 nm and Waters MICROMASS®. HPLC method: Solvent A=10% MeOH-90% H2O-0.1% TFA, Solvent B=90% MeOH-10% H2O-0.1% TFA, Start % B=0, Final % B=100, Gradient time=2 min, Stop time=3 min, Flow Rate=5 ml/min, Column: PHENOMENEX® Luna, 3.0×50 mm, S10; (ES+) m/z (M+H)+=291.01, HPLC Rt=1.478 min.

reactant | ethyl 4-fluoro-2-(4-fluorophenyl)-5-hydroxybenzofuran-3-carboxylate | 0.342 mmol, 108.9 mg | FC1=C(C=CC2=C1C(=C(O2)C2=CC=C(C=C2)F)C(=O)OCC)O | C17H12F2O4
reactant | THF | 2 mL | C1CCOC1 | C4H8O
reactant | sodium hydroxide | 1.0 mmol, 1 M, 1.0 mL | [OH-].[Na+]
reactant | HCl | 1N, 1.5 ml | Cl | ClH
solvent | MeOH | 2 mL | CO | CH4O
solvent | H2O | 10 ml | O | H2O
product | 4-Fluoro-2-(4-fluorophenyl)-5-hydroxybenzofuran-3-carboxylic acid | FC1=C(C=CC2=C1C(=C(O2)C2=CC=C(C=C2)F)C(=O)O)O | C15H8F2O4
